US07718652B2
In an analogous manner to Example 11 step 5, 3-(2-bromoethyl)-6-fluoro-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.1 g, 0.25 mmol) was reacted to methylamine and then treated with HCl to provide 2-[6-fluoro-1-(2-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methylethanamine (0.081 g, 92%) as a white solid:

reactant | 3-(2-bromoethyl)-6-fluoro-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.25 mmol, 0.1 g | BrCCN1S(N(C2=C(C1)C=C(C=C2)F)C2=C(C=CC=C2)F)(=O)=O | C15H13BrF2N2O2S
reactant | methylamine | CN | CH5N
reactant | HCl | Cl | ClH
product | 2-[6-fluoro-1-(2-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methylethanamine | 0.081 g, 92% | FC=1C=CC2=C(CN(S(N2C2=C(C=CC=C2)F)(=O)=O)CCNC)C1 | C16H17F2N3O2S
